US06137010
It is preferred that the amount of nitrobenzene, so reacted with carbanilide, is in the molar ratio of 0.5-20. If the amount of nitrobenzene is increasing, the reaction rate become faster, and then the reaction yield will be also enhanced within the same time. However, if excess of nitrobenzene is present in the reaction, azoxybenzene is formed as a by-product which results in lowering the selectivity rate of 4-NDPA.

reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | carbanilide | C1=CC=C(C=C1)NC(=O)NC2=CC=CC=C2 | C13H12N2O
product | azoxybenzene | [N+]([O-])(=NC1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2O
